US08912186B2
By a procedure similar to that of example 1.59.1, starting from benzaldehyde and commercial 2-acetylphenanthrene, 1-(2-phenanthrenyl)-3-phenylprop-2-en-1-one was obtained as yellowish solid.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-acetylphenanthrene | C(C)(=O)C1=CC=2C=CC3=CC=CC=C3C2C=C1 | C16H12O
product | 1-(2-phenanthrenyl)-3-phenylprop-2-en-1-one | C1=C(C=CC=2C3=CC=CC=C3C=CC12)C(C=CC1=CC=CC=C1)=O | C23H16O
